US05739333
To a solution of (2-methoxyphenoxy)malonic acid diethyl ester (10.0 g) and thiourea (4.04 g) in methanol (100 ml) is added dropwise with stirring a 28% solution of sodium methoxide in methanol (17.07 g) over a period of 30 minutes under ice-cooling. The mixture is stirred at room temperature overnight. After the reaction is completed, the mixture is evaporated under reduced pressure to remove the solvent, and water (200 ml) is added to the residue. To the mixture is further added methyl iodide (3.30 ml), and the mixture is reacted at room temperature for three hours. The reaction solution is acidified with 10% aqueous hydrochloric acid, and the precipitated crystals are collected by filtration, washed with water, and dried to give 4,6-dihydroxy-5-(2-methoxyphenoxy)-2-methylthiopyrimidine (8.90 g).

reactant | (2-methoxyphenoxy)malonic acid diethyl ester | 10.0 g | C(C)OC(C(C(=O)OCC)OC1=C(C=CC=C1)OC)=O | C14H18O6
reactant | thiourea | 4.04 g | NC(=S)N | CH4N2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 17.07 g | CO | CH4O
product | 4,6-dihydroxy-5-(2-methoxyphenoxy)-2-methylthiopyrimidine | 8.90 g | OC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)O)SC | C12H12N2O4S
